US04894386
A solution of methyl 1-(4-methylphenylsulfonyl)indole-6-carboxylate (28.0 g) in tetrahydrofuran (250 ml) was added dropwise to a slurry of lithium aluminum hydride (4.5 g) in tetrahydrofuran (300 ml) at 0°. After stirring at 0° for 15 minutes, the excess lithium aluminum hydride was quenched with a saturated solution of sodium sulfate and the resultant white precipitate was removed by filtration. The filtrate was dried (MgSO4) and evaporated to give 6-hydroxymethyl-1-(4-methylphenylsulfonyl)indole (21.5 g, 84%) as an ivory solid; partial NMR (80 MHz, CDCl3): 2.33(s, 3H, ArCH3), 4.77(d, 2H, OCH2), 6.62(dd, 1H, H3 -indole), 7.97(m, 1H, H7 -indole).

reactant | methyl 1-(4-methylphenylsulfonyl)indole-6-carboxylate | 28.0 g | CC1=CC=C(C=C1)S(=O)(=O)N1C=CC2=CC=C(C=C12)C(=O)OC | C17H15NO4S
reactant | lithium aluminum hydride | 4.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 6-hydroxymethyl-1-(4-methylphenylsulfonyl)indole | 21.5 g, 84% | OCC1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C | C16H15NO3S
